US06730788B1
The process if claim 1 wherein methyl ethyl ketone is coupled with 1,10-phenanthroline to provide 2-[(1-hydroxy-1-methylpropyl)]-1,10-phenanthroline.

reactant | 1,10-phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | methyl ethyl ketone | C(C)C(=O)C | C4H8O
product | 2-[(1-hydroxy-1-methylpropyl)]-1,10-phenanthroline | OC(CC)(C)C1=NC2=C3N=CC=CC3=CC=C2C=C1 | C16H16N2O
